*****************************************************************
* NXP PSMN8R0-30YLC
*
* Polarity N-Channel
* Ratings 30V/7.900000E-003OHMS/61A
*
* Date Created Thu Aug 25 07:23:16 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN8R0-30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00542486040209619 TC=0.00581607288659178,8.90048706968512E-08
RBD 9 4 0.00215506478799262 TC=0.00581607288659178,8.90048706968512E-08
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 7.49560176838332e-10
RG 1 2 2.19163376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	840.9
+ -10	839.6
+ -5	835
+ -4	831.2
+ -3	817.2
+ -2	595
+ -1	553.1
+ -0.5	464.5
+ -0.2	406.8
+ -0.1	386.9
+ 0	367.1
+ 0.1	338.4
+ 0.2	311.2
+ 0.5	242.7
+ 1	177.7
+ 2	130.8
+ 3	112.3
+ 4	101.5
+ 5	94.3
+ 6	88.9
+ 8	81.2
+ 10	75.8
+ 12	72.2
+ 15	68.8
+ 20	64.7


.MODEL MINT NMOS(Vto=2.0 Kp=1.513290e+002 Nfs=420000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=7.15163100936053e-13
+ N=1 M=0.52 VJ=0.99 Fc=0.5 Cjo=6.177e-10 Tt=2.09e-08)

.ENDS

